US07462600B2
Preparation 49: 3-bromo-[1,8]naphthyridine-4-carbaldehyde
A mixture of 3-bromo-4-methyl-[1,8]-naphthyridine (1.5 g, 6.7 mmol), dioxane (16 mL) and water (0.6 mL) was treated with selenium dioxide (3.0 g, 27 mmol) and stirred at 80° C. for 1 h. The mixture was cooled to RT, diluted with satd. aq. NaHCO3, extracted 3× with EtOAc, and the combined organic phases were dried over Na2SO4, filtered and concentrated under vacuum. Filtration through a pad of silica gel eluting with EtOAc gave 0.70 g of the title compound as a yellow solid. 1H NMR (CDCl3) δ 10.62 (s, 1H), 9.32 (s, 1H), 9.28 (d, 1H), 1.18 (d, 1H), 7.66 (dd, 1H).

reactant | 3-bromo-4-methyl-[1,8]-naphthyridine | 6.7 mmol, 1.5 g | BrC=1C=NC2=NC=CC=C2C1C | C9H7BrN2
reactant | dioxane | 16 mL | O1CCOCC1 | C4H8O2
reactant | selenium dioxide | 27 mmol, 3.0 g | [Se](=O)=O | O2Se
solvent | water | 0.6 mL | O | H2O
product | 3-bromo-[1,8]naphthyridine-4-carbaldehyde | 0.70 g | BrC=1C=NC2=NC=CC=C2C1C=O | C9H5BrN2O
